US09303007B2
In a microwave vial, 2,6-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalene (149 mg, 0.393 mmol), (S)-tert-butyl 2-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyrazin-2-yl)pyrrolidine-1-carboxylate (294 mg, 0.590 mmol) (or a SEM regioisomer), cesium carbonate (384 mg, 1.18 mmol) and dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (32.3 mg, 0.079 mmol) were dissolved into THF (4 mL) and water (0.4 mL). An additional 1.5 mL of THF was added and the reaction was sparged with bubbling nitrogen until the 1.5 mL had evaporated away. To the clear solution was added palladium(II) acetate (8.83 mg, 0.039 mmol). The vial was flushed with nitrogen, sealed and then heated with microwave irradiation at 120° C. for 30 min. The reaction was diluted with EtOAc (˜3 mL) and washed with water (2 mL) and brine (2 mL). The reaction was dried (MgSO4), filtered and concentrated to a yellow oil which was purified by flash chromatography (12 g SiO2, 25-75% EtOAc/hexanes) to yield (2S,2′S)-tert-butyl 2,2′-(5,5′-(naphthalene-2,6-diyl)bis(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyrazine-5,2-diyl))dipyrrolidine-1-carboxylate (or a SEM regioisomer) (210 mg) as a yellow solidified foam and (S)-tert-butyl 2-(5-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyrazin-2-yl)pyrrolidine-1-carboxylate (or a SEM regioisomer) (53.5 mg) as a colorless oil.

reactant | 2,6-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalene | 0.393 mmol, 149 mg | CC1(OB(OC1(C)C)C1=CC2=CC=C(C=C2C=C1)B1OC(C(O1)(C)C)(C)C)C | C22H30B2O4
reactant | (S)-tert-butyl 2-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyrazin-2-yl)pyrrolidine-1-carboxylate | 0.590 mmol, 294 mg | BrC=1N=C2C(=NC1)N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C | C20H32BrN5O3Si
reactant | cesium carbonate | 1.18 mmol, 384 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.079 mmol, 32.3 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | palladium(II) acetate | 0.039 mmol, 8.83 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | water | 0.4 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 2-(5-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyrazin-2-yl)pyrrolidine-1-carboxylate | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)C=1N=C2C(=NC1)N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C | C36H50BN5O5Si
